US09216964B2
To a solution containing 5-bromo-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.5 g, 6 mmol) and butadiene sulfone (1.2 g, 10.2 mmol) in water (20 mL) is added 1N KOH (10 mL). The reaction mixture is stirred at 70° C. for 24 hours. After cooling to ambient temperature, the reaction mixture is diluted with saturated NaHCO3 solution and extracted with dichloromethane three times. The organic phase is washed with brine and dried over Na2SO4 before drying by rotary evaporation. The crude product is purified by silica gel flash chromatography to afford 5-bromo-2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinoline as a wax-like solid. MS m/z 330.1 (M+1).

reactant | 5-bromo-1,2,3,4-tetrahydroisoquinoline hydrochloride | 6 mmol, 1.5 g | Cl.BrC1=C2CCNCC2=CC=C1
reactant | butadiene sulfone | 10.2 mmol, 1.2 g | S1(=O)(=O)CC=CC1 | C4H6O2S
reactant | KOH | 1N, 10 mL | [OH-].[K+]
solvent | water | 20 mL | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-bromo-2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinoline | BrC1=C2CCN(CC2=CC=C1)C1CS(CC1)(=O)=O | C13H16BrNO2S
